US07994196B2
Nitromethane (20 ml) and ammonium acetate (1.6 g) were added to 6-chloro-5-(trifluoromethyl)indole-3-carbaldehyde (3.25 g) and the mixture was heated under reflux for 1 hr. The reaction mixture was allowed to cool, and the precipitated solid was collected by filtration, washed with methanol-water (1:1) and dried to give a brown solid. This solid was washed in a suspension state with diethyl ether, collected by filtration and dried to give 6-chloro-3-[(E)-2-nitrovinyl]-5-(trifluoromethyl)-1H-indole (1.86 g, yield 49%).

reactant | ammonium acetate | 1.6 g | C(C)(=O)[O-].[NH4+]
reactant | 6-chloro-5-(trifluoromethyl)indole-3-carbaldehyde | 3.25 g | ClC1=C(C=C2C(=CNC2=C1)C=O)C(F)(F)F | C10H5ClF3NO
reactant | Nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
product | 6-chloro-3-[(E)-2-nitrovinyl]-5-(trifluoromethyl)-1H-indole | 1.86 g, yield 49% | ClC1=C(C=C2C(=CNC2=C1)\C=C\[N+](=O)[O-])C(F)(F)F | C11H6ClF3N2O2
